US05840947
11.3 g (0.3 mol) of NaBH4 were added in portions at 0° C. to a solution of 64 g (0.23 mol) of 2-methyl-4-(3-quinolyl)-1-indanone in 600 cm3 of THF/methanol 2:1 and the mixture was stirred for 18 hours at room temperature. The reaction mixture was poured onto 1000 g of ice, admixed with concentrated aqueous HCl to a pH of 1 and extracted a number of times with Et2O. The combined organic phases were washed with saturated aqueous NaHCO3 solution and saturated aqueous NaCl solution. The solvent was removed under reduced pressure and the crude product was taken up in 1000 cm3 of toluene, admixed with 2 g of p-toluenesulfonic acid and heated under reflux for 2 hours using a water separator. The reaction mixture was washed 3 times with 150 cm3 of saturated aqueous NaHCO3 solution and the solvent was removed under reduced pressure. Chromatography on silica gel (hexane/ethyl acetate 20:1) gave 45 g (76%) of 2-methyl-7-(3-quinolyl)indene as a colorless oil.

reactant | NaBH4 | 0.3 mol, 11.3 g | [BH4-].[Na+]
reactant | 2-methyl-4-(3-quinolyl)-1-indanone | 0.23 mol, 64 g | CC1C(C2=CC=CC(=C2C1)C=1C=NC2=CC=CC=C2C1)=O | C19H15NO
reactant | HCl | Cl | ClH
solvent | THF methanol | 600 cm3 | C1CCOC1.CO
product | 2-methyl-7-(3-quinolyl)indene | 45 g, 76% | CC=1CC2=C(C=CC=C2C1)C=1C=NC2=CC=CC=C2C1 | C19H15N
